US07144888B2
3,4-Diamino-phenol sodium salt. To a 200-mL, round-bottomed flask containing a solution of 1,2-diamino-4-methoxy-benzene (0.50 g, 3.6 mmol, Avocado) in CH2Cl2 (5 mL) was added dropwise a solution of BBr3 in CH2Cl2 (15 mL, 15 mmol, 1.0 M, Aldrich) with stirring at −30° C. under N2. The mixture was stirred at room temperature for 5 h and quenched with ice water (25 mL) by cooling with and ice bath. The mixture was basified to pH 9 with 1 N NaOH and extracted with water (2×8 mL). The combined aq. extracts containing the title compound were used directly in the next reaction. A small portion of the aq. solution was neutralized with 1 N NaOH to give an analytical sample of 3,4-diamino-phenol. MS (ESI, pos. ion) m/z: 125 (M+1).

reactant | 3,4-Diamino-phenol sodium salt | [Na].NC=1C=C(C=CC1N)O
reactant | 1,2-diamino-4-methoxy-benzene | 3.6 mmol, 0.50 g | NC1=C(C=C(C=C1)OC)N | C7H10N2O
reactant | BBr3 | B(Br)(Br)Br | BBr3
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 15 mmol, 1.0 M, 15 mL | C(Cl)Cl | CH2Cl2
product | 3,4-diamino-phenol | NC=1C=C(C=CC1N)O | C6H8N2O
